US07745484B2
A solution of 1-(5-(methoxymethoxy)-2-neopentylpyridin-4-yl)ethanone (21.6 g, 86 mmol) in (2:1:1) 5 M HCl: i-PrOH : THF (800 mL) was stirred 4 h at rt. The mixture was concentrated to remove the THF and i-PrOH. The resulting solution consisting of the product in aqueous HCl was quenched by slow addition to a solution of saturated aqueous NaHCO3 (500 mL) containing excess solid NaHCO3 (50 g). The aqueous layer was extracted with CH2Cl2 (3×250 mL), the organic layers combined and washed with saturated aqueous NaCl (250 mL), dried (MgSO4), and concentrated to give 1-(5-hydroxy-2-neopentylpyridin-4-yl)ethanone as a brown oil.

reactant | 1-(5-(methoxymethoxy)-2-neopentylpyridin-4-yl)ethanone | 86 mmol, 21.6 g | COCOC=1C(=CC(=NC1)CC(C)(C)C)C(C)=O | C14H21NO3
reactant | i-PrOH | CC(C)O | C3H8O
reactant | THF | 800 mL | C1CCOC1 | C4H8O
solvent | HCl | 5 M | Cl | ClH
product | 1-(5-hydroxy-2-neopentylpyridin-4-yl)ethanone | OC=1C(=CC(=NC1)CC(C)(C)C)C(C)=O | C12H17NO2
